US07618975B2
(4-Ethyl-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
The title compound was prepared from (4-ethyl-phenyl)-(2-methyl-quinazolin-4-yl)-amine (122 mg, 0.46 mmol) and methyl iodide (0.2 ml, 3.25 mmol) by a procedure similar to example 36. 1H NMR (CDCl3): 7.74 (d, J=8.1 Hz, 1H), 7.54-7.49 (m, 1H), 7.19 (d, J=8.4 Hz, 2H), 7.09-6.92 (m, 4H), 3.61 (s, 3H), 2.73-2.63 (m, 5H), 1.26 (d, J=7.5 Hz, 3H).

reactant | (4-ethyl-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.46 mmol, 122 mg | C(C)C1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C | C17H17N3
reactant | methyl iodide | 3.25 mmol, 0.2 ml | CI | CH3I
product | (4-Ethyl-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | C(C)C1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C18H19N3
